US04871730
To a suspension of benzhydryl 7-formamido-3 -[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (69.8 g) in methanol (350 ml) was added conc. hydrochloric acid (40.7 ml). The mixture was heated at 30°-35° C. for 2 hours. The mixture was poured into a mixture of ethyl acetate (2 l) and water (1 l) and adjusted to pH 6.5 with a saturated aqueous solution of sodium bicarbonate. The organic layer was separated, washed with water and saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and concentrated in vacuo to a crystal. The crystal was washed with diethyl ether to give benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (52.3 g).

reactant | benzhydryl 7-formamido-3 -[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 69.8 g | C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H23N3O4S2
reactant | hydrochloric acid | 40.7 ml | Cl | ClH
reactant | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 350 ml | CO | CH4O
solvent | water | 1 l | O | H2O
product | benzhydryl 7-amino-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 52.3 g | NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O3S2
